US05776983
B. N-[3-[2-[[1-(3,4-Dimethoxyphenyl)-2-phenylethyl]amino]1-hydroxyethyl]phenyl]methanesulfonamide
The title compound was prepared by coupling α-(3,4-dimethoxyphenyl)benzeneethanamine, prepared as described in step C of Example 1, with 2-bromo-1-[3-[(methylsulfonyl)amino]phenyl]ethanone via the procedure described in step D of Example 1. The title compound, after silica gel chromatography, was purified by preparative HPLC using 49% solvent B to elute the desired material from a YMC S10 C18 column.

reactant | α-(3,4-dimethoxyphenyl)benzeneethanamine | COC=1C=C(C=CC1OC)C(CC1=CC=CC=C1)N | C16H19NO2
reactant | 2-bromo-1-[3-[(methylsulfonyl)amino]phenyl]ethanone | BrCC(=O)C1=CC(=CC=C1)NS(=O)(=O)C | C9H10BrNO3S
product | N-[3-[2-[[1-(3,4-Dimethoxyphenyl)-2-phenylethyl]amino]1-hydroxyethyl]phenyl]methanesulfonamide | COC=1C=C(C=CC1OC)C(CC1=CC=CC=C1)NCC(O)C=1C=C(C=CC1)NS(=O)(=O)C | C25H30N2O5S
